US04806549
3-Butyryl-4-chloro-8-methylquinoline (2.48 g, 10 mmol), 2,5-dimethoxyaniline (3.06 g, 20 mmol) and 1,4-dioxan (10 ml) were stirred at room temperature overnight then heated at reflux for 30 minutes. The hydrochloride salt was filtered off, converted to free base and recrystallised from aqueous ethanol to give 3-butyryl-4-(2,5-dimethoxyphenylamino)-8-methylquinoline (1.07 g), m.p. 115°-116°.

reactant | 3-Butyryl-4-chloro-8-methylquinoline | 10 mmol, 2.48 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)C | C14H14ClNO
reactant | 2,5-dimethoxyaniline | 20 mmol, 3.06 g | COC1=C(N)C=C(C=C1)OC | C8H11NO2
solvent | 1,4-dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(2,5-dimethoxyphenylamino)-8-methylquinoline | 1.07 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC(=C1)OC)OC)C | C22H24N2O3
